US09085583B2
To a solution of 4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid (10 g, 43 mmol) in DCM (60 mL) was added HATU (19 g, 50 mmol) in portions, The mixture was stirred at room temperature for 0.5 h. Then DIPEA (12.9 g, 100 mmol) and N, O-dimethylhydroxylamine hydrochloride (5.0 g, 51.5 mmol) were added in the mixture. The mixture was stirred at room temperature overnight. Water (40 mL) was added and the mixture was extracted by DCM (100 mL*3). The organic layer was washed with brine (5 mL) and dried over sodium sulfate. Concentration and purification by column chromatography on silica gel (eluted: petroleum ether/ethyl acetate=20/1-10/1) to give tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate (10 g, 84%).

reactant | 4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | 43 mmol, 10 g | C(C)(C)(C)OC(=O)N1CC(OCC1)C(=O)O | C10H17NO5
reactant | HATU | 50 mmol, 19 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 100 mmol, 12.9 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | 40 mL | O | H2O
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate | 10 g, 84% | CON(C(=O)C1CN(CCO1)C(=O)OC(C)(C)C)C | C12H22N2O5
